US04822801
A suspension of 24.3 g (0.10 mmole) 3-ethoxy-carbonyl-5-oxo-3-pyrrolidineacetic acid, ethyl ester in an excess of 2 N sodium hydroxide, was stirred three hours at room temperature, acidified with dilute hydrochloric acid, and evaporated to dryness in vacuo. The product, 3-carboxy-5-oxo3-pyrrolidineacetic acid, was taken up in isopropyl alcohol, separated from insoluble sodium chloride by filtration, concentrated to a syrup and dissolved in 100 ml 70% ethylamine. The solution was gradually heated in an oil bath up to 230° C. allowing volatiles to distill and then maintained at 230°-240° C. for ten minutes. After cooling, the product was crystallized from isopropyl alcohol to afford 10.1 g of 2-ethyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione, mp 168°-169° C.

reactant | 3-ethoxy-carbonyl-5-oxo-3-pyrrolidineacetic acid, ethyl ester | 0.10 mmole, 24.3 g | C(C)OC1(C(NC(C1)=O)=C=O)CC(=O)OCC | C11H15NO5
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-ethyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione | 10.1 g | C(C)N1C(C2(CC1=O)CNC(C2)=O)=O | C9H12N2O3
